US04992589
(2-β-Hydroxyethylmercapto-5-nitrophenyl hydroxyethyl sulfone)
58.75 g of potassium carbonate are added at 22° C. to a suspension of 132.85 g of 2-chloro-5-nitrophenyl hydroxyethyl sulfone in 100 ml of water and 80 g of 2-mercaptoethanol in the course of 1.5 hours, and the mixture is stirred at room temperature for 4 hours. The reaction mixture is then filtrated with suction, and the filter residue is washed with water until neutral. Drying these gives 124.3 g of 2-β-hydroxyethylmercapto-5-nitrophenyl hydroxyethyl sulfone having a melting point of 116°-118° C. (purity about 99%), which corresponds to a yield of 81% of theory, relative to starting 2-chloro-5-nitrophenyl hydroxyethyl sulfone.

reactant | potassium carbonate | 58.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitrophenyl hydroxyethyl sulfone | 132.85 g | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C8H8ClNO5S
reactant | 2-mercaptoethanol | 80 g | SCCO | C2H6OS
solvent | water | 100 ml | O | H2O
product | 2-β-Hydroxyethylmercapto-5-nitrophenyl hydroxyethyl sulfone | yield of 81% | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])SCCO | C10H13NO6S2
